Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Fall
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ who presented to an OSH after fall from standing and
questionable syncopal episode resulting in an orbital floor
fracture and maxillary sinus fracture on the right. Sent to 
___
for plastic surgery evaluation. No other injuries or complaints
aside from right knee and wrist pain. Does not think she lost
consciousness. Never had anything like this happen before. OSH
EKG unremarkable. Does endorse diplopia.

 
Past Medical History:
GERD, HLD

Past Surgical History:
knee replacement

 
Social History:
___
Family History:
noncontributory

 
Physical Exam:
Discharge Physical Exam:
Vitals: WNL
Gen: Awake, alert, NAD
HEENT: R sided periorbital ecchymosis with sutured laceration 
across right zygomatic arch
CV: RRR
Pulm: No resp distress
Abd: Soft, nontender, nondistended
Ext: No CCE, WWP
Neuro: Grossly intact, EOMI, PERRL
 
Pertinent Results:
___ 09:10AM BLOOD WBC-10.4* RBC-4.05 Hgb-12.3 Hct-37.9 
MCV-94 MCH-30.4 MCHC-32.5 RDW-13.6 RDWSD-46.4* Plt ___
___ 09:10AM BLOOD Glucose-96 UreaN-24* Creat-0.8 Na-136 
K-4.1 Cl-100 HCO3-26 AnGap-14
___ 05:36PM BLOOD Glucose-138* UreaN-22* Creat-0.9 Na-138 
K-4.6 Cl-102 HCO3-27 AnGap-14
___ 05:36PM BLOOD cTropnT-<0.01
___ 09:10AM BLOOD Calcium-9.6 Phos-3.8 Mg-2.2

___ Carotid US
IMPRESSION: 
 
Normal carotid artery ultrasound.

OSH imaging reviewed.
 
Brief Hospital Course:
General:
The patient presented to the Emergency Department on ___ as 
a transfer from an OSH after experiencing a fall. Pt was 
evaluated upon arrival to ED; a plastic surgery and 
ophthalmology consult were obtained. She was found to have a 
blowout orbital fracture and a nasal bone fracture. She was 
transferred to the ward for observation. She was evaluated by 
OT, who did not find any need for acute intervention. She 
experienced a brief episode of an SVT on telemetry and a 
cardiology consult was obtained, who recommended outpatient 
follow up. She was discharged with instructions to follow up 
with ophthalmology, plastic surgery, and cardiology. 
Neuro: The patient was alert and oriented throughout 
hospitalization; pain was managed with PO pain medications.
CV: The patient remained stable from a cardiovascular 
standpoint; vital signs were routinely monitored. She 
experienced a brief episode of SVT on telemetry with some 
associated light-headedness. A cardiology consult was obtained, 
outpatient follow up was recommended. She was started on low 
dose metoprolol XL in order to prevent further episodes of 
arrhythmias. 
Pulmonary: The patient remained stable from a pulmonary 
standpoint; vital signs were routinely monitored. Good pulmonary 
toilet, early ambulation and incentive spirometry were 
encouraged throughout hospitalization. 
GI/GU/FEN: Once pt's injuries were assessed, she was able to 
tolerate a regular diet. She was voiding independently at the 
time of discharge. 
ID: The patient's fever curves were closely watched for signs of 
infection, of which there were none. She was given a 
prophylactic 7 day course of Augmentin. 
HEME: The patient's blood counts were closely watched for signs 
of bleeding, of which there were none.
Prophylaxis: The patient received subcutaneous heparin and ___ 
dyne boots were used during this stay and was encouraged to get 
up and ambulate as early as possible.
At the time of discharge, the patient was doing well, afebrile 
and hemodynamically stable.  The patient was tolerating a diet, 
ambulating, voiding without assistance, and pain was well 
controlled.  The patient received discharge teaching and 
follow-up instructions with understanding verbalized and 
agreement with the discharge plan.

 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Divalproex (DELayed Release) 250 mg PO BID Migranes 
2. Omeprazole 20 mg PO DAILY 
3. Relpax (eletriptan HBr) 40 mg oral PRN migraines 
4. Simvastatin 40 mg PO QPM 
5. Aspirin 81 mg PO DAILY 

 
Discharge Medications:
1. Aspirin 81 mg PO DAILY 
2. Divalproex (DELayed Release) 250 mg PO BID Migranes 
3. Omeprazole 20 mg PO DAILY 
4. Relpax (eletriptan HBr) 40 mg oral PRN migraines 
5. Simvastatin 40 mg PO QPM 
6. Acetaminophen 650 mg PO TID 
7. Amoxicillin-Clavulanic Acid ___ mg PO Q12H Duration: 7 Days 
RX *amoxicillin-pot clavulanate 500 mg-125 mg 1 tablet(s) by 
mouth twice a day Disp #*10 Tablet Refills:*0
8. OxycoDONE (Immediate Release)  2.5 mg PO Q4H:PRN pain 
RX *oxycodone 5 mg ___ tablet(s) by mouth q4hrs Disp #*30 
Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
orbital blowout fracture
nasal fracture
syncopal episode
Supraventricular tachycardia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___, 

You were admitted to ___ after experiencing a fall. You were 
found to have some facial fractures. You were evaluated by the 
plastic surgery team and the ophthalmology team who recommended 
conservative management of your injuries with outpatient follow 
up. You also were evaluated by the cardiology team after you 
were noted to have a brief abnormal heart rhythm. You were 
started on long acting metoprolol to help prevent future 
abnormal heart rhythms and you will follow up as an outpatient 
with cardiology. 

You were started on an antibiotic called Augmentin while at 
___ for a 7 day course to prevent any infections associated 
with your facial fractures. Please take all medication as 
prescribed. You should have no leftover pills.

Sinus Precautions:

Certain precautions will assist healing and we ask that you 
faithfully follow these instructions:

1. Take the prescribed medications as directed.

2. Do not forcefully spit for several days.

3. Do not smoke for several days.

4. Do not use straws for several days.

5. Do not forcefully blow your nose for at least 2 weeks, even 
though your sinus may feel “stuffy” or there may be some nasal 
drainage.

6. Try not to sneeze; it will cause undesired sinus pressure. If 
you must sneeze, keep your mouth open.

7. Eat only soft foods for several days, always trying to chew 
on the opposite side of your mouth.

8. Do not rinse vigorously for several days. GENTLE salt water 
swishes may be used. Slight bleeding from the nose is not 
uncommon for several days after the surgery. Please keep our 
office advised of any changes in your condition, especially if 
drainage or pain increases. It is important that you keep all 
future appointments until this condition has resolved.

 
Followup Instructions:
___